US08440658B2
To a solution of 3-chloro-1-(4-fluorophenyl)propan-1-one (5.0 g, 0.027 mol) and K2CO3 (7.45 g, 0.054 mol) in acetonitrile (100 mL) was added (S)-3,3-dimethylbutan-2-amine (3.24 g, 0.032 mol), and the reaction mixture was stirred at rt overnight. The solution was filtered, and the filtrate was concentrated to give (S)-3-(3,3-dimethylbutan-2-ylamino)-1-(4-fluorophenyl)propan-1-one (6.40 g, 94%). 1H NMR (CDCl3): 0.82 (s, 9H), 0.91-0.96 (d, 3H), 2.14-2.22 (m, 1H), 2.73-2.82 (m, 1H), 3.01-3.11 (m, 3H), 7.01-7.09 (m, 2H), 7.88-7.96 (m, 2H).

reactant | 3-chloro-1-(4-fluorophenyl)propan-1-one | 0.027 mol, 5.0 g | ClCCC(=O)C1=CC=C(C=C1)F | C9H8ClFO
reactant | K2CO3 | 0.054 mol, 7.45 g | C(=O)([O-])[O-].[K+].[K+]
reactant | (S)-3,3-dimethylbutan-2-amine | 0.032 mol, 3.24 g | CC([C@H](C)N)(C)C | C6H15N
solvent | acetonitrile | 100 mL | C(C)#N | C2H3N
product | (S)-3-(3,3-dimethylbutan-2-ylamino)-1-(4-fluorophenyl)propan-1-one | 6.40 g, 94% | CC([C@H](C)NCCC(=O)C1=CC=C(C=C1)F)(C)C | C15H22FNO
